US04128658
A solution of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (2.14 g) and S-methyl-N-nitroisothiourea (1.5 g) in ethanol (10 ml) was heated to 40° for 5 mins. The resulting precipitate was filtered and recrystallised from ethyl acetate and petroleum ether b.p. 80°-100° to give N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-nitroguanidine m.p. 103°-104°.

reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 2.14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | S-methyl-N-nitroisothiourea | 1.5 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-nitroguanidine | CN(C)CC1=CC=C(O1)CSCCNC(=N)N[N+](=O)[O-] | C11H19N5O3S
